*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXF2R5ARA391ME61G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXF2R5ARA391ME61G_20deg-C 1 2

C1 4 2 3.39e-04
C2 5 2 4.19e-05
C3 6 2 9.69e-06
R1 3 4 8.71e-03
R2 4 5 1.22e-01
R3 5 6 6.11e+00
L1 1 3 2.10e-09

.ENDS
